Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left foot gangrene 
 
Major Surgical or Invasive Procedure:
Left ___ toe amputation and ___ toe debridement

 
History of Present Illness:
___ w/PVD, CAD, ESRD HD (___), EF 25% s/p L fem to peroneal 
bypass w/cadaveric vein here for IV antibiotics for gangrene of 
the left toes. The patient underwent a bypass on ___ was 
discharged home with services and two weeks of minocycline 
following his IV antibiotics while he was admitted.
Pt reports he is doing well. He was seen by Dr. ___ in 
clinic on ___ who discussed toe amputation now that the foot 
is revascularized. Pt is non ambulatory currently. Pain is 
fairly well controlled. 

 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: L fem-peroneal bypass ___: LLE angiogram, L 
BK ___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___, R pop-DP bypass, ___ toe amputation ___ 
(___, Vascular surgeon Dr ___ 
___, RLE hematoma evacuation ___ (___), 
bypass graft explantation, tonsillectomy, Debridement ankle 
infection ___ Revision right ankle ligament reconstruction with 
Achilles tendon allograft ___, 5V CABG ___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
99.7 118/69 6518 99RA
General: cachectic 
___: RRR
Pulm: no respiratory distress
Ext: R BKA stump site with a 1cm eschar. LLE: P/D/D/D Graft is
palpable, distal staples in place, ___ toe is absent with an
eschar there is an eschar over the second toe and the lateral
portion of the first toe. Malodorous, minimal erythema the foot
is tender.

DISCHARGE PHYSICAL EXAM
VS: 98.0 119/62 54 16 99Ra
General: AAO x 3, in no acute distress, cachectic appearing 
CV: irregular rate and rhythm 
Pulm: breathing comfortably on room air, no increased work of 
breathing 
Abd: soft, nontender
Extremities: R BKA stump with 1cm dry eschar no erythema
LLE with amputated ___ toe site, sutures intact without 
drainage, some lateral involvement of ___ toe, ___ toe site 
partially open s/p debridement
 
Pertinent Results:
ADMISSION LABS
___ 11:55PM   GLUCOSE-130* UREA N-27* CREAT-2.4* SODIUM-141 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-30 ANION GAP-11
___ 11:55PM   estGFR-Using this
___ 11:55PM   CALCIUM-8.9 PHOSPHATE-4.2 MAGNESIUM-2.2
___ 11:55PM   WBC-5.6 RBC-3.66* HGB-10.3* HCT-34.1* MCV-93 
MCH-28.1 MCHC-30.2* RDW-15.7* RDWSD-53.5*
___ 11:55PM   PLT COUNT-105*
___ 11:55PM   ___ PTT-36.2 ___

DISCHARGE LABS
___ 06:31AM BLOOD WBC-3.6* RBC-3.49* Hgb-9.9* Hct-32.8* 
MCV-94 MCH-28.4 MCHC-30.2* RDW-15.9* RDWSD-54.7* Plt Ct-89*
___ 06:31AM BLOOD Glucose-207* UreaN-25* Creat-2.6* Na-138 
K-4.4 Cl-99 HCO3-28 AnGap-11
___ 06:31AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with PVD s/p R BKA and multiple b/l ___ 
vascular procedures, CAD, Afib on apixiban, ESRD on HD (___), 
and CHF (EF 25%) who presented with nonhealing L ___ and ___ toe 
ulcers and rest pain s/p L fem to peroneal bypass w/cadaveric 
vein (___) admitted for left toe amputations. On ___ 
patient underwent uncomplicated left ___ toe amputation and ___ 
toe debridement. He received HD on ___ the day 
following surgery and was discharged home on ___ with remainder 
of bactrim course. 

TRANSITIONAL ISSUES
===================
[]Toe gangrene: s/p left lower extremity fem-peroneal bypass and 
now toe amputation. discharged on bactrim to complete 10 day 
course. Will follow up with Dr. ___ in ___ weeks for suture 
removal 
[]Afib: Patient takes apixiban 2.5mg BID. On admission, 
increased to 5mg BID based on therapeutic dose for his weight. 
No contraindications given renal function and dosing criteria. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
3. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
4. Metoprolol Tartrate 25 mg PO BID 
5. Atorvastatin 80 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Nephrocaps 1 CAP PO DAILY 
8. Tamsulosin 0.4 mg PO DAILY 
9. glimepiride 1 mg oral DAILY 
10. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
11. Furosemide 80 mg PO DAILY 
12. Gabapentin 300 mg PO DAILY 
13. Apixaban 2.5 mg PO BID 
14. Minocycline 100 mg PO Q12H 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*7 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Gabapentin 300 mg PO DAILY 
can take an additional dose after dialysis   
4.  OxyCODONE SR (OxyconTIN) 20 mg PO QAM:PRN moderate pain   
5.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 80 mg PO QPM  
8.  Furosemide 80 mg PO DAILY  
9.  glimepiride 1 mg oral DAILY  
10.  Metoprolol Tartrate 25 mg PO BID  
11.  Nephrocaps 1 CAP PO DAILY  
12.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
13.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral Vascular Disease
Gangrene Toe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with a worsening infection of your left toes 
and underwent an uncomplicated amputation of your ___ left toe 
and debridement of the ___ on ___. You recovered well from 
the procedure. 

It is important that you weight bear only on the heel of your 
foot (avoid the forefoot) so that the amputation site heals 
appropriately. Please also continue to take the antibiotic 
bactrim for an additional 7 days to treat your infection. While 
you were here you had the staples from your recent left leg 
bypass procedure removed. 

Please note that the dose of your apixaban was changed from 
2.5mg twice a day to 5mg twice a day. Please continue to take 
this medication at the newly prescribed dose. 

It was a pleasure taking care of you, 
Your ___ Vascular Care Team 

 
Followup Instructions:
___